US07514470B2
B. 1,1-Dimethylethyl N-[4-cyano-3-(trifluoromethyl)phenyl]-N-(3,3,3-trifluoropropyl)glycinate
Synthesized as described in example 1B using 2-(trifluoromethyl)-4-[(3,3,3-trifluoropropyl)amino]benzonitrile and tert-butyl bromoacetate: 1H NMR (400 MHz, CDCl3) δ 7.64 (d, J=8.8 Hz, 1H), 6.84 (d, J=2.6 Hz, 1H), 6.73 (dd, J=8.8, 2.6 Hz, 1H), 4.03 (s, 2H), 3.74 (t, J=7.5 Hz, 2H), 2.57-2.45 (m, 2H), 1.45 (s, 9H).

reactant | 2-(trifluoromethyl)-4-[(3,3,3-trifluoropropyl)amino]benzonitrile | FC(C1=C(C#N)C=CC(=C1)NCCC(F)(F)F)(F)F | C11H8F6N2
reactant | tert-butyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
product | 1,1-Dimethylethyl N-[4-cyano-3-(trifluoromethyl)phenyl]-N-(3,3,3-trifluoropropyl)glycinate | C(#N)C1=C(C=C(C=C1)N(CC(=O)OC(C)(C)C)CCC(F)(F)F)C(F)(F)F | C17H18F6N2O2
